US05015716
Synthesis of methylphenylsilane-dimethylsilane copolymer
The procedure of Reference Example 2 was followed, but using a mixture of 60 g methylphenyldichlorosilane and 90 g dimethyldichlorosilane in place of the methylphenyldichlorosilane used in Reference Example 2. The product was a methylphenylsilanedimethylsilane copolymer with an average molecular weight of 40,000 and a softening point of 125 degrees Centigrade.

reactant | methylphenyldichlorosilane | 60 g | C[Si](Cl)(Cl)C1=CC=CC=C1 | C7H8Cl2Si
reactant | dimethyldichlorosilane | 90 g | C[Si](Cl)(Cl)C | C2H6Cl2Si
product | methylphenylsilane dimethylsilane | C[SiH2]C1=CC=CC=C1.C[SiH2]C | InChI=1S/C7H10Si.C2H8Si/c1-8-7-5-3-2-4-6-7;1-3-2/h2-6H,8H2,1H3;3H2,1-2H3
